US07696223B2
a) 1-Benzyl-2,3,7-tribromo-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester
Prepared in analogy to that of Example 103(a) from 1-benzyl-2,3-dibromo-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester, NBS and BzOOBz. The title compound, ESI MS (m/z): 531 (M+H)+.

reactant | 1-benzyl-2,3-dibromo-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=CN1)N(C(=C2Br)Br)CC2=CC=CC=C2)O | C17H14Br2N2O3
reactant | NBS | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | BzOOBz | C(=O)(C1=CC=CC=C1)OOC(=O)C1=CC=CC=C1 | C14H10O4
product | 1-Benzyl-2,3,7-tribromo-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=C(N1)Br)N(C(=C2Br)Br)CC2=CC=CC=C2)O | C17H13Br3N2O3
